US07419984B2
2-Amino-propionic acid 4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl ester
Following the method described in Example 64, (S)-2-tert-butoxycarbonylamino-propionic acid 4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl ester and hydrogen chloride provided the title compound (51% yield).

reactant | (S)-2-tert-butoxycarbonylamino-propionic acid 4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl ester | NC1=NC(=CC(=N1)NC1=CC=C(COC([C@H](C)NC(=O)OC(C)(C)C)=O)C=C1)C1=C(C=CC(=C1)Cl)OCC | C27H32ClN5O5
reactant | hydrogen chloride | Cl | ClH
product | 2-Amino-propionic acid 4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl ester | 51% yield | NC1=NC(=CC(=N1)NC1=CC=C(COC(C(C)N)=O)C=C1)C1=C(C=CC(=C1)Cl)OCC | C22H24ClN5O3
